US04851427
Ethyl (±)-2-[1'-(1"-methylethyl)-2'-oxo-2'-phenylethyl]-1,3-dithiolane-2-carboxylate (Compound CVI)
83 ml. of 1.65M. n-butyllithium/hexane (138 mmoles) is added via syringe to a solution of 20.2 ml. (14.58 g.; 144 mmoles) of diisopropylamine in 200 ml. of dry tetrahydrofuran (distilled from ketyl) stirred at -78° C., the reaction mixture is warmed to 0° C. and cooled to -78° C., 18.7 ml. (23.35 g.; 131 mmoles) of ethyl 1,3-dithiolane-2-carboxylate (Compound CV) is added dropwise to the reaction mixture stirred at -78° C., the reaction mixture is stirred at -78° C. for 30 minutes, a solution of 22.749 g. (131 mmoles) of Compound CIV in 50 ml. of dry tetrahydrofuran (distilled from ketyl) is added dropwise with stirring at -78° C., and the reaction mixture is stirred at -78° C. for 3 hours, the reaction mixture being maintained under dry nitrogen throughout. The reaction mixture is quenched at -78° C. with saturated ammonium chloride solution and warmed to 20°-25° C., the tetrahydrofuran is evaporated at reduced pressure, and the residue is partitioned between ethyl acetate and water. The aqueous phase is acidified to about pH 2 with 10% hydrochloric acid and extracted with ethyl acetate. The ethyl acetate layers are combined, washed twice with saturated sodium chloride solution, dried over anhydrous magnesium sulfate, filtered and evaporated at reduced pressure. The residue is triturated with diethyl ether to obtain the crude product as a white solid (27.13 g.).

reactant | n-butyllithium hexane | 138 mmoles | C(CCC)[Li].CCCCCC
reactant | diisopropylamine | 144 mmoles, 14.58 g | C(C)(C)NC(C)C | C6H15N
reactant | ethyl 1,3-dithiolane-2-carboxylate | 131 mmoles, 23.35 g | S1C(SCC1)C(=O)OCC | C6H10O2S2
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
product | Ethyl (±)-2-[1'-(1"-methylethyl)-2'-oxo-2'-phenylethyl]-1,3-dithiolane-2-carboxylate | 27.13 g | CC(C)C(C(C1=CC=CC=C1)=O)C1(SCCS1)C(=O)OCC | C17H22O3S2
